US06306860B1
2-[1-(3-amino-2-pyridyl)piperazin-4-yl-carbonyl]-5-[N-(tetrahydro-2-furanon-3-yl)carbamoyl]pyridine
6-[1-(3-amino-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid (1 g) was added to a co-solvent of tetrahydrofuran (25 ml) and methylene chloride (15 ml) and with the successive addition of 1.3-dicyclohexylcarbodimide (1.3 g) and 1-hydroxybenzotriazole (0.46 g) at 15° C.˜20° C., the mixture was stirred for 2 hours. A mixture of α-amino-γ-butyrolactone hydrobromide (1.1 g) and triethylamine (0.9 ml) was added again to the mixture at 20° C. and stirred at 20° C.˜25° C. for 3 hours. With the addition of methylene chloride (50 ml), the mixture was washed with water 3 times, dried over magnesium sulfate and concentrated under reduced pressure. The concentrated residue was treated with ether for crystallization and recrystallized with chloroform and tetrahydrofuran to give a desired compound of 1.07 g (yield: 71%).

reactant | 6-[1-(3-amino-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid | 1 g | NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C16H17N5O3
reactant | 1.3-dicyclohexylcarbodimide | 1.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 0.46 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | α-amino-γ-butyrolactone hydrobromide | 1.1 g | Br.NC1C(=O)OCC1
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-[1-(3-amino-2-pyridyl)piperazin-4-yl-carbonyl]-5-[N-(tetrahydro-2-furanon-3-yl)carbamoyl]pyridine | yield: 71% | NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C=C1)C(NC1C(OCC1)=O)=O | C20H22N6O4
